US07902356B2
2-(2,2-Dimethyl-morpholin-4-yl)-ethanol
Dissolve 2,2-dimethylmorpholine (151 mg, 1.0 mmol) in 1,2-dichloroethane (3 mL) and add glycolaldehyde (60 mg, 1.0 mmol). Stir at room temperature for 30 min followed by addition of NaBH(OAc)3 (233 mg, 1.1 mmol). Stir 3 h, then quench by adding 30 mL of 1N NaOH. Pour into a separatory funnel and extract with EtOAc (2×50 mL). Wash the combined organic layers with brine (50 mL). The crude alcohol was used as is without further purification. MS (ES+) 160.2 (M+1)+.

reactant | 2,2-dimethylmorpholine | 1.0 mmol, 151 mg | CC1(CNCCO1)C | C6H13NO
reactant | glycolaldehyde | 1.0 mmol, 60 mg | C(CO)=O | C2H4O2
reactant | NaBH(OAc)3 | 1.1 mmol, 233 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | 2-(2,2-Dimethyl-morpholin-4-yl)-ethanol | CC1(CN(CCO1)CCO)C | C8H17NO2
